US04762848
Methyl 2-benzylmercapto-4-methyl-1,3-thiazol-5-ylacetate
2.03 g (0.01 mole) of methyl 2-mercapto-4-methyl-1,3thiazol-5-ylacetate are reacted with potassium carbonate and benzyl chloride in acetone and worked up in accordance with Example 1, stage 2.

reactant | methyl 2-mercapto-4-methyl-1,3thiazol-5-ylacetate | 0.01 mole, 2.03 g | SC=1SC(=C(N1)C)CC(=O)OC | C7H9NO2S2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 2-benzylmercapto-4-methyl-1,3-thiazol-5-ylacetate | C(C1=CC=CC=C1)SC=1SC(=C(N1)C)CC(=O)OC | C14H15NO2S2
